US08729263B2
Trifluoroacetic acid (1 mL) was added to tert-butyl 3-((6-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)pyridazin-3-yl)oxy)pyrrolidine-1-carboxylate (0.18 g, 0.40 mmol) in DCM (3 mL) at 0° C. The reaction was stirred for 2 days at RT. The reaction mixture was added to an aqueous solution of NaOH (1 M) and the aqueous phase was extracted with chloroform/propan-2-ol (3:1). The combined organic phases were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford 3-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)-6-(pyrrolidin-3-yloxy)pyridazine (0.14 g, 100%) as a brown solid.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-((6-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)pyridazin-3-yl)oxy)pyrrolidine-1-carboxylate | 0.40 mmol, 0.18 g | COC1=C(C=CC(=C1)N1N=CC=C1)C1=CC=C(N=N1)OC1CN(CC1)C(=O)OC(C)(C)C | C23H27N5O4
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)-6-(pyrrolidin-3-yloxy)pyridazine | 0.14 g, 100% | COC1=C(C=CC(=C1)N1N=CC=C1)C=1N=NC(=CC1)OC1CNCC1 | C18H19N5O2
